US09353108B2
E) Methyl 2-chloro-6-cyclopropyl-2′,4′-difluoro-3-hydroxybiphenyl-4-carboxylate
N-Chlorosuccinimide (1.65 g) was added at room temperature to a DMF (40 mL) solution of methyl 2-cyclopropyl-2′,4′-difluoro-5-hydroxybiphenyl-4-carboxylate (3.13 g), and the mixture was stirred at the same temperature as above for 3 hours in a nitrogen atmosphere. Then, N-chlorosuccinimide (0.549 g) was further added thereto, and the mixture was stirred at the same temperature as above for 16 hours in a nitrogen atmosphere. Water was added to the reaction mixture at room temperature, and the mixture was stirred at 0° C. for 1 hour. The deposited crystals were collected by filtration. The obtained crystals were dissolved in ethyl acetate and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (3.17 g).

reactant | N-Chlorosuccinimide | 1.65 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
reactant | methyl 2-cyclopropyl-2′,4′-difluoro-5-hydroxybiphenyl-4-carboxylate | 3.13 g | C1(CC1)C1=C(C=C(C(=C1)C(=O)OC)O)C1=C(C=C(C=C1)F)F | C17H14F2O3
reactant | N-chlorosuccinimide | 0.549 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | Water | O | H2O
product | Methyl 2-chloro-6-cyclopropyl-2′,4′-difluoro-3-hydroxybiphenyl-4-carboxylate | 3.17 g | ClC1=C(C(=CC(=C1O)C(=O)OC)C1CC1)C1=C(C=C(C=C1)F)F | C17H13ClF2O3
